US03975537
A mixture of 10.0 g. (0.034 mol.) of 2-n-butyl-3-(4'-hydroxybenzoyl)benzofuran and 6.1 g. (0.034 mol.) of N-bromosuccinimide in 150 ml. of damp dimethylformamide was refluxed for 12 hours. The reaction mixture was poured into water and extracted with chloroform. The extracts were washed repeatedly with water, then dried (Na2SO4) and concentrated to give 2-n-butyl-3-(3'-bromo-4'-hydroxybenzoyl)-benzofuran.

reactant | 2-n-butyl-3-(4'-hydroxybenzoyl)benzofuran | 0.034 mol | C(CCC)C=1OC2=C(C1C(C1=CC=C(C=C1)O)=O)C=CC=C2 | C19H18O3
reactant | N-bromosuccinimide | 0.034 mol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-n-butyl-3-(3'-bromo-4'-hydroxybenzoyl)-benzofuran | C(CCC)C=1OC2=C(C1C(C1=CC(=C(C=C1)O)Br)=O)C=CC=C2 | C19H17BrO3
